US06509354B1
1.0 g (5.2 mmol) of 4-trifluoromethylphenyl boronic acid, 1.4 g (5.4 mmol) of 3-bromophenyl cyclopentyl sulfide, 1.6 g (15.0 mmol) of sodium carbonate and 0.8 g (0.7 mmol) of tetrakis(triphenylphosphine) palladium were added to a solvent mixture of 50 ml of toluene, 25 ml of ethanol and 25 ml of water and refluxed under heating and stirring for 2 hours. The resulting reaction mixture was poured into ice-cold water and extracted with toluene. The toluene layer was washed with water twice and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. Purification of the residue by silica gel column chromatography afforded 1.3 g of [3-(4-trifluoromethylphenyl)phenyl]cyclopentyl sulfide (yield 78.0%) as a colorless liquid (nD20 1.5732).

reactant | 4-trifluoromethylphenyl boronic acid | 5.2 mmol, 1.0 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | 3-bromophenyl cyclopentyl sulfide | 5.4 mmol, 1.4 g | C1(CCCC1)SC1=CC(=CC=C1)Br | C11H13BrS
reactant | sodium carbonate | 15.0 mmol, 1.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine) palladium | 0.7 mmol, 0.8 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | water | 25 ml | O | H2O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | [3-(4-trifluoromethylphenyl)phenyl]cyclopentyl sulfide | 1.3 g, yield 78.0% | FC(C1=CC=C(C=C1)C=1C=C(C=CC1)SC1CCCC1)(F)F | C18H17F3S
